US07544835B2
Ethyl 2-isopropoxy-3-(3-[(trifluoromethyl)sulfonyl]oxyphenyl)-propanoate
688 mg of Ethyl 3-(3-hydroxyphenyl)-2-isopropoxypropanoate was dissolved in dichloromethane, and 600 μl of triethylamine, 15 mg of 4-dimethylaminopyridine and 1.045 g of N,N-bistrifluoromethanesulfonyl aniline were added. The solution was stirred at room temperature overnight and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 1.132 g of the title compound in the 10:1 hexane-ethyl acetate fraction.

reactant | Ethyl 3-(3-hydroxyphenyl)-2-isopropoxypropanoate | 688 mg | OC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C14H20O4
reactant | triethylamine | 600 μl | C(C)N(CC)CC | C6H15N
reactant | N,N-bistrifluoromethanesulfonyl aniline | 1.045 g | FC(S(=O)(=O)N(C1=CC=CC=C1)S(=O)(=O)C(F)(F)F)(F)F | C8H5F6NO4S2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 2-isopropoxy-3-(3-[(trifluoromethyl)sulfonyl]oxyphenyl)-propanoate | 1.132 g | C(C)(C)OC(C(=O)OCC)CC1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F | C15H19F3O6S
